US04645779
α-Ethyl-α-(4-chlorophenyl)-4-[3-(di-n-propylamino)-propoxy]-benzylalcohol
13.1 g. of α-ethyl-α-(4-chlorophenyl)-4-hydroxy-benzylalcohol, 14 g. of anhydrous potassium carbonate, 9.8 g. of dipropylaminopropyl chloride and 0.85 g. of tetrabutyl ammonium hydrogensulfate in 135 ml. of ethyl acetate are slightly boiled for 20 hours, under stirring. After cooling the mixture, the solvent is evaporated in vacuo. To the residue water and benzene are added. The phases are separated, the benzene solution is washed with water, dried over anhydrous potassium carbonate, filtered and evaporated. The residue is purified by vacuum fractionation. 13.8 g. of the desired end product are obtained, boiling at 198° to 200° C./1.33 Pa.

reactant | α-ethyl-α-(4-chlorophenyl)-4-hydroxy-benzylalcohol | C(C)C(C1=CC=C(C=C1)O)(C1=CC=C(C=C1)Cl)O | C15H15ClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dipropylaminopropyl chloride | C(CC)N(CCC)CCCCl | C9H20ClN
catalyst | tetrabutyl ammonium hydrogensulfate | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | α-Ethyl-α-(4-chlorophenyl)-4-[3-(di-n-propylamino)-propoxy]-benzylalcohol | C(C)C(C1=CC=C(C=C1)OCCCN(CCC)CCC)(C1=CC=C(C=C1)Cl)O | C24H34ClNO2
